Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
Sphincterotomy and sphincteroplasty with successful ERCP and 
extraction of large stones performed by Dr. ___ and on 
___

 
History of Present Illness:
___ man who had a laparoscopic cholecystectomy for
treatment of gallstones in ___ who has been well since.  He
developed an episode of chills associated with nausea vomiting
and fever to 102.4 ___ prior to admission which lasted
several hours.  He noticed that he had slightly darker colored
urine since then and was evaluated with the urine analysis at 
his
primary care office on ___.  He then had subsequent labs
which showed elevated abnormal liver function tests and
bilirubin.  Bili 3.5, Direct 1.3, ALT 177, Alk phos 204, Lipase
666

He had ultrasound on ___ at ___ that showed
choledocolithiasis. After having the ultrasound and before 
coming
to ___ the patient tolerated a meal of pizza on ___ without
any nausea or abdominal pain and he also notes that his urine
color is lightening.  He was referred to ___ ED because of
abnormal utlrasound  Here he had repeat ultrasound showed mildly
dilated ducts but no gallstones were noted.  Bili was 2.1 ALT
120, lipase 211.  

Currently feels well without any focal abdominal pain or nausea
currently and he is hungry.  He has not had fever since early
last week.

ROS:
Negative in 10 point review of systems unless mentioned in HPI 
he
has had also a mild cough which is not severe and is not
troublesome or associated with any other respiratory symptoms.
No diarrhea.

Past medical history copied from atria's records include the
following on his problem list.
HISTORY BASAL CELL CARCINOMA l lower back ___ 
  colon adenoma 
 Esophagitis, reflux 
 Impotence due to erectile dysfunction 
  Active advance directive 
 HTN, goal below 140/90 
  Bilateral pseudophakia 
 Fatty liver 
 Neuropathy 
  Pseudophakia of both eyes 
  Dry eye syndrome 
  Peripheral retinal degeneration, paving stone 
  History of encephalitis 
  OSA (obstructive sleep apnea) 
  CAD in native artery 

He says he does not have history of hypertension but is only
notable chronic problems include intermittent GERD for which he
takes a PPI and having had undergone a cholecystectomy in ___.

Social history notable for rare alcohol use no tobacco use and
that he is a retired ___.

Family history not notable for any past medical history of
gallstones gallbladder or liver pathology in his immediate 
family
members.

 
Physical Exam:
___ 0815 Temp: 97.6 PO BP: 144/76 HR: 50 RR: 17 O2 sat: 96%
O2 delivery: ra 
Well-appearing man in a shirt and jeans not appearing confused
without any jaundice or any scleral icterus.
Tongue is moist and red
Breath sounds are clear bilaterally
Pulses regular and strong
Abdomen is soft without any guarding or tenderness in the right
upper quadrant
No peripheral edema noted
No rashes
No gross motor defects or facial asymmetry

Discharge exam stable vital signs no jaundice no abdominal 
tenderness to palpation no organomegaly
 
Pertinent Results:
___ 07:10AM BLOOD WBC-7.6 RBC-4.76 Hgb-14.4 Hct-43.6 MCV-92 
MCH-30.3 MCHC-33.0 RDW-12.9 RDWSD-43.5 Plt ___
___ 06:03AM BLOOD ALT-120* AST-40 AlkPhos-193* TotBili-2.1* 
DirBili-0.7* IndBili-1.4
___ 06:55AM BLOOD ALT-101* AST-42* AlkPhos-189* TotBili-1.3
___ 01:51AM BLOOD Lipase-211*

MRCP
IMPRESSION:  
  
Choledocholithiasis, with 4 stone seen in the common bile duct, 
the largest 
measuring up to 1 cm.  There is associated upstream dilatation 
of the common 
bile duct measuring up to 1.1 cm, and mild intrahepatic biliary 
duct 
dilatation. 

 
Brief Hospital Course:
___ status post cholecystectomy in ___ he developed 
abdominal pain 1 day of fever found to have suspected gallstone 
in the common bile duct on outside abdominal ultrasound as well 
as a lipase of 600 and an elevated bilirubin who is referred to 
___ for ERCP. ED imaging with ultrasound suggested 
dilated ducts but did not show any gallstones.  He then 
underwent MRCP that confirmed choledocholithiasis was present.  
Bilirubin and lipase were both abnormal at BI.  He then 
underwent ERCP with sphincterotomy and sphincteroplasty and 
extraction of large stones with Dr. ___ version on ___ 
successfully.  He recovered well and tolerated a diet before 
discharge.  He noted slight amount of dark blood or clot when 
passing stool on the morning of ___ but his CBC was she was 
stable and this did not recur.  Bili 1.8 at time of discharge.  
He was given warning signs of increased GI bleeding abdominal 
pain or intolerance of food to return to the hospital and 
contact his physician.

[]TRANSITIONAL
GET LFTS AT NEXT PCP APPT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. propylene glycol 0.6 % ophthalmic (eye) DAILY 
3. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY  
3.  propylene glycol 0.6 % ophthalmic (eye) DAILY  
4. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until for 5 days hold

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis without obstruction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Your hospital for treatment of gallstone stuck in the common 
bile duct this was removed with a technique called ERCP 
performed with a sphincterotomy and sphincteroplasty to remove 
the stones which was successful.

Do not take aspirin for the next 5 days and do not take 
ibuprofen or other NSAIDs in this timeframe

Please let the GI team know if you develop any symptoms such as 
severe abdominal pain or GI bleeding does not stop on its own.
 
Followup Instructions:
___